US04727077
Into a flask, 7.00 g of 5-bromo-2-chloropyrimidine, 5.19 g of 4-amino-2-chlorophenol, 9.98 g of potassium carbonate and 70 ml of dimethylsulfoxide were introduced, and reacted in a nitrogen atmosphere at 120° C. for 1.5 hours under stirring. After the completion of the reaction, the product was poured into water, and extracted with ethyl acetate. The extract was washed with water and a saturated sodium chloride aqueous solution, dried over anhydrous sodium sulfate, and then purified by silica gel column chromatography, whereby 6.80 g of oily 4-(5-bromo-2-pyrimidinyloxy)-3-chloroaniline was obtained.

reactant | 5-bromo-2-chloropyrimidine | 7.00 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | 4-amino-2-chlorophenol | 5.19 g | NC1=CC(=C(C=C1)O)Cl | C6H6ClNO
reactant | potassium carbonate | 9.98 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfoxide | 70 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(5-bromo-2-pyrimidinyloxy)-3-chloroaniline | 6.80 g | BrC=1C=NC(=NC1)OC1=C(C=C(N)C=C1)Cl | C10H7BrClN3O
